US04252803
(i) 3-[2-(1,3-Dihydro-1,3-dioxo-2H-Isoindol-2-yl) ethyl]-1H-indole-5-carboxylic acid, 4-nitrophenyl ester
Polyphosphoric acid ethyl ester (40 ml) and 4-nitrophenol (6.3 g) were added to a solution of 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-carboxylic acid (15 g) in dimethylformamide (70 ml) and the mixture was stirred at 80° C. for 24 hours. More polyphosphoric acid ethyl ester (20 ml) was added and the mixture stirred at 80° C. for 3 hours. The mixture was cooled, poured into ice and water (900 ml) and stirred for 1 hour with ice cooling. The resulting solid was filtered off and washed with boiling ethanol (1500 ml) and hot water (600 ml) to give the title compound (12.5 g) as pale yellow crystals m.p. 248°-251° C. T.L.C. Silica, ethyl acetate:2-propanol:water:ammonia (25:15:8:2) Rf 0.9.

reactant | 4-nitrophenol | 6.3 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-carboxylic acid | 15 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)C(=O)O | C19H14N2O4
reactant | water | 900 ml | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 3-[2-(1,3-Dihydro-1,3-dioxo-2H-Isoindol-2-yl) ethyl]-1H-indole-5-carboxylic acid, 4-nitrophenyl ester | 12.5 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C25H17N3O6
